US08791146B2
4-[4-(2-Hydroxyethoxy)phenyl]-2-methoxy-6-sulphanylpyridine-3,5-dicarbonitrile
4.0 g (12.1 mmol) of 2-chloro-4-[4-(2-hydroxyethoxy)phenyl]-6-methoxypyridine-3,5-dicarbonitrile are dissolved in 16 ml of anhydrous DMF, 1.42 g (18.2 mmol) of anhydrous sodium sulphide are added and the mixture is stirred at room temperature for 2 h. 36 ml of water are added, and with stirring the solution is slowly added dropwise to a mixture, warmed to 50° C., of 61 ml of 1M hydrochloric acid and 20 ml of methanol. The yellow suspension is stirred at RT for 1 h and filtered off with suction, and the precipitate is washed with water and dried at 45° C. under reduced pressure overnight.

reactant | 2-chloro-4-[4-(2-hydroxyethoxy)phenyl]-6-methoxypyridine-3,5-dicarbonitrile | 12.1 mmol, 4.0 g | ClC1=NC(=C(C(=C1C#N)C1=CC=C(C=C1)OCCO)C#N)OC | C16H12ClN3O3
reactant | sodium sulphide | 18.2 mmol, 1.42 g | [S-2].[Na+].[Na+]
reactant | water | 36 ml | O | H2O
reactant | hydrochloric acid | 1M, 61 ml | Cl | ClH
solvent | DMF | 16 ml | CN(C)C=O | C3H7NO
solvent | methanol | 20 ml | CO | CH4O
product | 4-[4-(2-Hydroxyethoxy)phenyl]-2-methoxy-6-sulphanylpyridine-3,5-dicarbonitrile | OCCOC1=CC=C(C=C1)C1=C(C(=NC(=C1C#N)S)OC)C#N | C16H13N3O3S
